US04879314
A mixture of 3 g (14.78 mole) of dibromoformaldoxime and 2.71 g (15.5 mole) of 4-chlorobenzoyl chloride in methylene chloride (40 ml) is treated with dry pyridine (1.26 g, 16 mole) After workup as in Step B of Example 1 there is obtained 4.4 g (80% theory) of 4-chlorobenzoyldibromoformaldoxime, m.p.=93°-97° C.

reactant | dibromoformaldoxime | 14.78 mole, 3 g | BrC(=NO)Br | CHBr2NO
reactant | 4-chlorobenzoyl chloride | 15.5 mole, 2.71 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | pyridine | 16 mole, 1.26 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-chlorobenzoyldibromoformaldoxime | 4.4 g, 80% | ClC1=CC=C(C(=O)ON=C(Br)Br)C=C1 | C8H4Br2ClNO2
